US07902394B2
(e) Ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate
p-Toluenesulfonyl chloride (9.03 g, 0.0474 mol) in pyridine (25 mL) was added dropwise to a cooled (−15° C.) solution of ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}pentanoate (13.02 g, 0.043 mol) in pyridine (50 mL) under N2. The reaction was stirred at −15° C. and warmed to RT overnight. The reaction mixture was quenched with H2O and extracted three times with ethyl ether. The combined ether layers were washed with 1N HCl, sat. CuSO4, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated. Column chromatography (hexane:ethylacetate, 0-30%) yielded the desired product (14.68 g, 75%).

reactant | p-Toluenesulfonyl chloride | 0.0474 mol, 9.03 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl 3-{3-[(1S)-1,2-dihydroxyethyl]-4,5-difluorophenyl}pentanoate | 0.043 mol, 13.02 g | O[C@H](CO)C=1C=C(C=C(C1F)F)C(CC(=O)OCC)CC | C15H20F2O4
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate | 14.68 g, 75% | FC=1C=C(C=C(C1F)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)CCC(=O)OCC | C20H22F2O6S
